US04604475
In place of the BuSnCl3 mentioned initially an equimolar amount of BuSnBr3 may be used to give Bu3SnBr in the same manner, but after 2.5 hours.

reactant | BuSnCl3 | C(CCC)[Sn](Cl)(Cl)Cl
reactant | BuSnBr3 | C(CCC)[Sn](Br)(Br)Br
product | Bu3SnBr | [Sn](CCCC)(CCCC)(CCCC)Br | InChI=1S/3C4H9.BrH.Sn/c3*1-3-4-2;;/h3*1,3-4H2,2H3;1H;/q;;;;+1/p-1
